US07678791B2
A solution of 1-(2-methyl-oxiranylmethyl)-4-nitro-1H-imidazole (1.5 g, 5.72 mmol) and piperazine-1-carboxylic acid tert-butyl ester (1.1 g, 5.72 mmol) is dissolved in IPA and heated to 60° C. for 24 h. The solution is concentrated and partitioned between water and ethyl acetate. The organic layer is dried over sodium sulfate and concentrated. The resulting solution of 4-[3-(2-bromo-4-nitro-imidazol-1-yl)-2-hydroxy-2-methyl-propyl]-piperazine-1-carboxylic acid tert-butyl ester (1.1 g, 2.46 mmol) in DMF (15 ml) was treated with sodium hydride (148 mg, 3.69 mmol) and stirred for 3 h at 60° C. The mixture was diluted with water and extracted with ethyl acetate. The organic layer is dried over sodium sulfate and concentrated. The residue is purified by silica gel chromatography to give 4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester (453 mg, 50%) of as a light yellow oil. ESI MS m/z 367 (M+Na+); 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 4.30 (d, J=10 Hz, 1H), 3.92 (d, J=10 Hz, 1H), 3.45-3.02 (m, 4H), 2.86 (d, J=14.8 Hz, 1H), 2.70-2.39 (m, 4H), 2.55 (d, J=14.8, 1H), 1.58 (s, 3H), 1.45 (s, 9H).

reactant | 1-(2-methyl-oxiranylmethyl)-4-nitro-1H-imidazole | 5.72 mmol, 1.5 g | CC1(OC1)CN1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 5.72 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-[3-(2-bromo-4-nitro-imidazol-1-yl)-2-hydroxy-2-methyl-propyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.46 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(CN1C(=NC(=C1)[N+](=O)[O-])Br)(C)O | C16H26BrN5O5
reactant | sodium hydride | 3.69 mmol, 148 mg | [H-].[Na+]
solvent | IPA | CC(C)O | C3H8O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | 453 mg, 50% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C16H25N5O5
